US08530493B2
A mixture of (5-ethoxy-1H-indol-ylmethyl)-dimethyl-amine (2.18 g, 10 mmol) and commercially available methyl 2-nitro-propionate (1.60 g, 12 mmol, 1.2 equiv) in dry toluene (17 ml) is refluxed. When TLC (toluene-acetone, 9:1) indicates the absence of starting material the mixture is cooled and is diluted with chloroform (35 ml). It is subsequently washed with 10% aqueous HCl (2×10 ml), water (10 ml), 5% aqueous NaOH (2×10 ml), water (10 ml), and 20% aqueous Na2SO4 (10 ml), is dried, and the solvents are removed under reduced pressure. The residue is purified by column chromatography (light petroleum-ethyl acetate, 4:1→7:3) to give (+/−)-3-(5-ethoxy-1H-indol-3-yl)-2-methyl-2-nitro-propionic acid methyl ester (2.07 g, 68%) as a white solid. M.p. 80-82° C. (from ethyl acetate-hexane).

reactant | (5-ethoxy-1H-indol-ylmethyl)-dimethyl-amine | 10 mmol, 2.18 g | C(C)OC=1C=C2C=CN(C2=CC1)CN(C)C | C13H18N2O
reactant | methyl 2-nitro-propionate | 12 mmol, 1.60 g, 1.2 equiv | [N+](=O)([O-])C(C(=O)OC)C | C4H7NO4
reactant | toluene acetone | C1(=CC=CC=C1)C.CC(=O)C
solvent | toluene | 17 ml | C1(=CC=CC=C1)C | C7H8
solvent | chloroform | 35 ml | C(Cl)(Cl)Cl | CHCl3
product | (+/−)-3-(5-ethoxy-1H-indol-3-yl)-2-methyl-2-nitro-propionic acid methyl ester | 2.07 g, 68% | COC(C(CC1=CNC2=CC=C(C=C12)OCC)([N+](=O)[O-])C)=O | C15H18N2O5
